US06143779
Synthesis of 2-[(3-methyl-4-methoxyphenyl)methylene]-6-acetoxy-3(2H)-benzofuranone
After 2-[(3-methyl-4-methoxyphenyl)methylene]-6-hydroxy-3(2H)- benzofuranone 0.5 g was dissolved in pyridine 5 ml, acetyl chloride 0.2 ml was added, and the mixture was refluxed for 1.5 hours. The solution was cooled to room temperature, ethyl acetate 50 ml was added, and the mixture was washed with 2N-hydrochloric acid 50 ml twice. After the ethyl acetate solution was dehydrated with anhydrous magnesium sulfate, it was concentrated under reduced pressure. The residue was fractionated by silica gel column chromatography (silica gel: 50 g, eluted with solvent 500 ml of hexane:ethyl acetate=1:1) and the fraction was concentrated to dryness at a temperature of 40° C. under reduced pressure to obtain crystals. The crystals were dried over phosphorous pentoxide at a temperature of 60° C. for four hours under reduced pressure to obtain the desired compound 436.6 mg.

reactant | 2-[(3-methyl-4-methoxyphenyl)methylene]-6-hydroxy-3(2H)- benzofuranone | 0.5 g | CC=1C=C(C=CC1OC)C=C1OC2=C(C1=O)C=CC(=C2)O | C17H14O4
reactant | acetyl chloride | 0.2 ml | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 2-[(3-methyl-4-methoxyphenyl)methylene]-6-acetoxy-3(2H)-benzofuranone | 436.6 mg | CC=1C=C(C=CC1OC)C=C1OC2=C(C1=O)C=CC(=C2)OC(C)=O | C19H16O5
